data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2764,3070,[CH3:20][NH:21][C:22](=[O:23])[C:24](=[O+:25][C-:26]([C:27](=[O:28])[NH:29][CH3:30])[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1)[C:37](=[O:38])[NH:39][CH3:40].[CH:1]1=[CH:2][CH:3]2[O:4][CH:5]1[C:6]([c:7]1[cH:8][cH:9][cH:10][cH:11][cH:12]1)=[C:13]2[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[CH:1]12[CH:2]([CH:3]3[O:4][CH:5]1[C:6]([c:7]1[cH:8][cH:9][cH:10][cH:11][cH:12]1)=[C:13]3[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[C:26]([C:27](=[O:28])[NH:29][CH3:30])([c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1)[O:25][C:24]2([C:22]([NH:21][CH3:20])=[O:23])[C:37](=[O:38])[NH:39][CH3:40],water,298.15,11.417957154241568,-60.59790226899143
4488,5121,[CH3:10][O:11][C:12](=[O:13])[C-:14]([C:15]#[N:16])[O+:17]=[CH:18][c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([C:15]#[N:16])[O:17][CH:18]1[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,11.387293698728044,-26.15796114777029
3819,4371,[CH2:1]=[CH2:2].[CH3:3][NH:4][C:5](=[O:6])[C-:7]([CH3:8])[O+:9]=[C:10]([C:11](=[O:12])[O:13][CH3:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH2:1]1[CH2:2][C:7]([C:5]([NH:4][CH3:3])=[O:6])([CH3:8])[O:9][C:10]1([C:11](=[O:12])[O:13][CH3:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,11.294835588533024,-62.04183968703264
913,987,[CH3:1][C:2]([CH3:3])=[C:4]([c:5]1[cH:6][cH:7][cH:8][cH:9][cH:10]1)[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1.[NH-:17][N+:18]#[C:19][c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1>>[CH3:1][C:2]1([CH3:3])[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)[NH:17][N:18]=[C:19]1[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,26.23708160125044,-29.421872221594768
4966,5653,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C:16](=[O:17])[CH:18]=[N+:19]([CH3:20])[N-:21][c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[N:21]([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[N:19]([CH3:20])[CH:18]2[C:16]([CH3:15])=[O:17],water,298.15,20.81890174928632,-6.02339123317824
2408,2674,[CH3:19][NH:20][C:21](=[O:22])[CH:23]=[NH+:24][C-:25]([CH3:26])[C:27](=[O:28])[O:29][CH3:30].[F:1][C:2]([F:3])([F:4])[C:5]1([C:6]([F:7])([F:8])[F:9])[C:10]#[C:11][C:12]([Cl:13])([Cl:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[F:1][C:2]([F:3])([F:4])[C:5]1([C:6]([F:7])([F:8])[F:9])[C:10]2=[C:11]([C:12]([Cl:13])([Cl:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[C:25]([CH3:26])([C:27](=[O:28])[O:29][CH3:30])[NH:24][CH:23]2[C:21]([NH:20][CH3:19])=[O:22],water,298.15,23.23896704827168,-34.60954501693273
786,851,[CH3:13][C:14](=[O:15])[C-:16]([C:17]#[N:18])[N+:19]([CH3:20])=[C:21]([CH3:22])[CH3:23].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:16]([C:14]([CH3:13])=[O:15])([C:17]#[N:18])[N:19]([CH3:20])[C:21]3([CH3:22])[CH3:23],water,298.15,29.11025375284925,-20.863509657757724
4766,5444,[CH3:10][O:11][C:12](=[O:13])[C:14](=[O+:15][C-:16]([C:17]([CH3:18])=[O:19])[C:20]([CH3:21])=[O:22])[C:23]([CH3:24])=[O:25].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:16]([C:17]([CH3:18])=[O:19])([C:20]([CH3:21])=[O:22])[O:15][C:14]1([C:12]([O:11][CH3:10])=[O:13])[C:23]([CH3:24])=[O:25],water,298.15,15.430452349356589,-34.00914760627942
1892,2097,[CH3:18][NH:19][C:20](=[O:21])[C-:22]([N+:23]#[N:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1.[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH2:14][CH2:15][CH:16]1[CH2:17]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)([CH:13]3[CH2:14][CH2:15][CH:16]1[CH2:17]3)[C:22]([C:20]([NH:19][CH3:18])=[O:21])([c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[N:23]=[N:24]2,water,298.15,30.50534893640441,5.5957691220023165
484,530,[CH3:1][O:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2.[N:12]#[C:13][N-:14][N+:15]#[C:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[CH:6]([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:16]([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)=[N:15][N:14]2[C:13]#[N:12],water,298.15,13.316585555953164,-40.026143152826926
1771,1962,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[Br:6].[CH3:7][NH:8][C:9](=[O:10])[C-:11]([O+:12]=[C:13]([C:14]([CH3:15])=[O:16])[C:17](=[O:18])[O:19][CH3:20])[C:21](=[O:22])[NH:23][CH3:24]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([Br:6])[C:13]([C:14]([CH3:15])=[O:16])([C:17](=[O:18])[O:19][CH3:20])[O:12][C:11]1([C:9]([NH:8][CH3:7])=[O:10])[C:21](=[O:22])[NH:23][CH3:24],water,298.15,21.545254535241376,-34.479775526144834
